US08957093B2
Step 2: (S)-1-(4-(tert-butyl)phenyl)ethanaminium chloride
To a solution of (R)—N—((S)-1-(4-(tert-butyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide (977 mg) in MeOH (1.75 mL) was added conc. HCl (1.75 mL). The reaction was aged at room temperature monitoring disappearance of starting material by analytical reverse-phase HPLC. When the starting material was consumed, the reaction was concentrated in vacuo. The crude residue was resuspended in MeOH (1 mL) and crashed out of solution by the addition of Et2O. Filtration afforded the title compound as a colorless solid (559 mg). ESI-MS (m/z): 161 [M+H—NH3]+, 338 [2M+H—NH3]+

reactant | (R)—N—((S)-1-(4-(tert-butyl)phenyl)ethyl)-2-methylpropane-2-sulfinamide | 977 mg | C(C)(C)(C)C1=CC=C(C=C1)[C@H](C)N[S@](=O)C(C)(C)C | C16H27NOS
reactant | HCl | 1.75 mL | Cl | ClH
solvent | MeOH | 1.75 mL | CO | CH4O
product | (S)-1-(4-(tert-butyl)phenyl)ethanaminium chloride | 559 mg | [Cl-].C(C)(C)(C)C1=CC=C(C=C1)[C@H](C)[NH3+] | InChI=1S/C12H19N.ClH/c1-9(13)10-5-7-11(8-6-10)12(2,3)4;/h5-9H,13H2,1-4H3;1H/t9-;/m0./s1
